US08252820B2
C. 2-Benzyloxy-6-fluorophenylamine
To a solution of 1-benzyloxy-3-fluoro-2-nitrobenzene (10.0 g, 40.5 mmol) in 100 mL of EtOH and 50 mL of 1N HCl is added SnCl2 (38.3 g, 202.5 mmol) and the solution is refluxed for 2 h. After cooling the mixture to RT, it is adjusted to PH>7 with solid K2CO3 and extracted with EtOAc. The organic layer is washed with water and brine, and dried over sodium sulfate. The solvent is removed under reduced pressure to give the product as a yellow liquid.

reactant | 1-benzyloxy-3-fluoro-2-nitrobenzene | 40.5 mmol, 10.0 g | C(C1=CC=CC=C1)OC1=C(C(=CC=C1)F)[N+](=O)[O-] | C13H10FNO3
reactant | SnCl2 | 202.5 mmol, 38.3 g | Cl[Sn]Cl
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | EtOH | 100 mL | CCO | C2H6O
solvent | HCl | 1N, 50 mL | Cl | ClH
product | 2-Benzyloxy-6-fluorophenylamine | C(C1=CC=CC=C1)OC1=C(C(=CC=C1)F)N | C13H12FNO
